US07807673B2
Step G: N-{5-[3-(2-Chloro-4-pyrimidinyl)pyrazolo[1,5-a]pyridin-2-yl]-2-fluorophenyl}-2-(2-thienyl)acetamide
5-[3-(2-Chloro-4-pyrimidinyl)pyrazolo[1,5-a]pyridin-2-yl]-2-fluoroaniline (690 mg, 2.0 mmol) and thiophene-2-acetyl chloride (0.26 mL, 2.1 mmol) were coupled according to the procedure of Example 56, Step G to give the desired product (858 mg, 92%). 1H NMR (400 MHz, d6-DMSO) δ 10.21 (s, 1H), 8.93 (d, J=9.2 Hz, 1H), 8.49 (d, J=7.6 Hz, 1H), 8.44 (d, J=12.0 Hz, 1H), 8.29-8.27 (m, 1H), 7.70-7.65 (m, 1H), 7.49-7.41 (m, 3H), 7.27-7.22 (m, 1H), 7.13 (d, J=7.2 Hz, 1H), 7.02-6.98 (m, 2H), 4.02 (s, 2H) ppm.

reactant | 5-[3-(2-Chloro-4-pyrimidinyl)pyrazolo[1,5-a]pyridin-2-yl]-2-fluoroaniline | 2.0 mmol, 690 mg | ClC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2)C=2C=CC(=C(N)C2)F | C17H11ClFN5
reactant | thiophene-2-acetyl chloride | 2.1 mmol, 0.26 mL | C1=CSC(=C1)CC(=O)Cl | C6H5ClOS
product | N-{5-[3-(2-Chloro-4-pyrimidinyl)pyrazolo[1,5-a]pyridin-2-yl]-2-fluorophenyl}-2-(2-thienyl)acetamide | 858 mg, 92% | ClC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2)C=2C=CC(=C(C2)NC(CC=2SC=CC2)=O)F | C23H15ClFN5OS
